US06235786B1
3-benzyl-2,5-dioxo-4,4-dimethylimidazolidine
A solution of 3-benzyl-1-(4′-methoxybenzyl)-2,5-dioxo-4,4-dimethylimidazolidine (3.9 g, 11.54 mmol) in acetonitrile (100 mL) was treated with a solution of ammonium cerium nitrate (31 g, 57.7 mmol) in 65 mL of water, stirred at 25° C. for 15 minutes, then diluted with ethyl acetate and partitioned between ethyl acetate and brine. The organic layer was dried, filtered, and concentrated. Purification by recrystalization with ethyl acetate/hexane provided 1.58 g (7.25 mmol, 63%) of the desired product as white solid.

reactant | 3-benzyl-1-(4′-methoxybenzyl)-2,5-dioxo-4,4-dimethylimidazolidine | 11.54 mmol, 3.9 g | C(C1=CC=CC=C1)N1C(N(C(C1(C)C)=O)CC1=CC=C(C=C1)OC)=O | C20H22N2O3
reactant | ammonium cerium nitrate | 57.7 mmol, 31 g | [N+](=O)([O-])[O-].[Ce].[NH4+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 65 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-benzyl-2,5-dioxo-4,4-dimethylimidazolidine | 7.25 mmol, 1.58 g, 63% | C(C1=CC=CC=C1)N1C(NC(C1(C)C)=O)=O | C12H14N2O2
